US04181800
A mixture of methyl 2-(4-formyl-2-oxo-3-phthalimido-1-azetidinyl)-2-phenylacetate (0.38 g.), silver oxide(0.92 g), tetrahydrofuran (9 ml.) and water (1 ml.) was stirred at ambient temperature for 40 hours. The insoluble materials were filtered off from the reaction mixture and the tetrahydrofuran was removed by distillation from the filtrate under reduced pressure. Water was added to the resultant residue and adjusted to pH 2 with 10% hydrochloric acid, whereafter the mixture was extracted with ethyl acetate. The extract was washed with 1% Aqueous sodium bicarbonate, and the washings were adjusted to pH 2 with 10% hydrochloric acid. The aqueous solution was extracted with ethyl acetate, whereafter this extract and the above-obtained extract were combined, washed with water and then dried over magnesium sulfate. The solvent was removed by distillation from the solution under reduced pressure to give methyl 2-(4-carboxy-2-oxo-3-phthalimido-1-azetidinyl)-2-phenylacetate [a mixture of two cis isomers (a) and (b) at the third and fourth positions of the azetidine ring, (200 mg.)].

reactant | methyl 2-(4-formyl-2-oxo-3-phthalimido-1-azetidinyl)-2-phenylacetate | 0.38 g | C(=O)C1C(C(N1C(C(=O)OC)C1=CC=CC=C1)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C21H16N2O6
reactant | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
catalyst | silver oxide | 0.92 g | [Ag]=O
solvent | water | 1 ml | O | H2O
product | methyl 2-(4-carboxy-2-oxo-3-phthalimido-1-azetidinyl)-2-phenylacetate | C(=O)(O)C1C(C(N1C(C(=O)OC)C1=CC=CC=C1)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C21H16N2O7
